US04685961
Preparation of 2-(benztriazol-1-ylmethylamino)-4-dimethylamino-6-methoxy-1,3,5-triazine
With stirring, a mixture of 16.9 g (0.1 mole) of 2-amino-4-dimethylamino-6-methoxy-1,3,5-triazine, 12 g (0.1 mole) of benztriazole, 9.4 g (0.11 mole) of aqueous 35% formaldehyde and 1 g of acetic acid in 100 ml of ethanol is heated under reflux for 2 hours. The still hot solution is clarified by filtration and crystals of the title compound precipitate from the cooled solution. The precipitate is filtered with suction and dried, affording 25 g (83% of theory) of crystalline product with a melting point of 222°-224° C.

reactant | 2-amino-4-dimethylamino-6-methoxy-1,3,5-triazine | 0.1 mole, 16.9 g | NC1=NC(=NC(=N1)N(C)C)OC | C6H11N5O
reactant | benztriazole | 0.1 mole, 12 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | 1 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(benztriazol-1-ylmethylamino)-4-dimethylamino-6-methoxy-1,3,5-triazine | N1(N=NC2=C1C=CC=C2)CNC2=NC(=NC(=N2)N(C)C)OC | C13H16N8O
